US06998409B2
N′-[2-(1H-indol-3-yl)ethyl]-N,N-dimethyl-1-pyridin-2-yl cyclohexane-1,4-diamine trihydrochloride, non-polar diastereomer
The N′-[2-(1H-indol-3-yl)ethyl]-N,N-dimethyl-1-pyridin-2-yl cyclohexane-1,4-diamine obtained according to example 1 (342 mg) was dissolved in 2-butanone (20 ml) and converted to the corresponding trihydrochloride with chlorotrimethyl silane (0.59 ml) (beige-coloured solid; 408 mg).

reactant | N′-[2-(1H-indol-3-yl)ethyl]-N,N-dimethyl-1-pyridin-2-yl cyclohexane-1,4-diamine | N1C=C(C2=CC=CC=C12)CCNC1CCC(CC1)(N(C)C)C1=NC=CC=C1 | C23H30N4
reactant | chlorotrimethyl silane | 0.59 ml, 408 mg | Cl[Si](C)(C)C | C3H9ClSi
solvent | 2-butanone | 20 ml | CC(CC)=O | C4H8O
product | N′-[2-(1H-indol-3-yl)ethyl]-N,N-dimethyl-1-pyridin-2-yl cyclohexane-1,4-diamine trihydrochloride | Cl.Cl.Cl.N1C=C(C2=CC=CC=C12)CCNC1CCC(CC1)(N(C)C)C1=NC=CC=C1 | InChI=1S/C23H30N4.3ClH/c1-27(2)23(22-9-5-6-15-25-22)13-10-19(11-14-23)24-16-12-18-17-26-21-8-4-3-7-20(18)21;;;/h3-9,15,17,19,24,26H,10-14,16H2,1-2H3;3*1H
